US05552404
N-(Cyclopropylmethyl)aniline [NMR (200 MHz, DMSO-d6): δ0.21 (m, 2H); 0.51 (m, 2H); 1.01 (m, 1H); 3.63 (d, J=7.3 Hz, 1H); 3.80 (br s, 1H); 5.78 (br s, 1H); 7.18 (t, J=7.2 Hz, 1H); 7.25 (d, J=7.8 Hz, 2H); 7.42 (t, J=7.3 Hz, 2H)] was prepared from aniline and (bromomethyl)cyclopropane via trifluoroacetanilide using the general method described by Hodge (Harland, P. A.; Hodge, P; Maughan, W.; Wildsmith, E. Synthesis, 1984, 941.).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
reactant | trifluoroacetanilide | FC(C(=O)NC1=CC=CC=C1)(F)F | C8H6F3NO
product | N-(Cyclopropylmethyl)aniline | C1(CC1)CNC1=CC=CC=C1 | C10H13N
